US06436929B1
6-(3,5-dichloro-phenyl)-4,4-dimethyl-1,4-dihydrobenzo-[d][1,3]oxazin-2-one was prepared, from 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one and 3,5-dichlorophenyl boronic acid according to the procedure of Example 4, as a white solid: mp 245-246° C.; 1H-NMR (DMSO-d6) δ10.4 (s, 1H), 7.77 (m, 2H), 7.67-7.64 (m, 2H), 7.56 (bs, 1H), 6.96 (d, 1H, J=7.98 Hz), 1.7 (s, 6H); MS (EI) m/z 321 ([M+H]+, 40%); Anal. Calc. For C16H13Cl2NO2: C, 59.32; H, 4.11; N, 4.32. Found: C, 59.13; H, 4.29; N, 4.17.

reactant | 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | BrC1=CC2=C(NC(OC2(C)C)=O)C=C1 | C10H10BrNO2
reactant | 3,5-dichlorophenyl boronic acid | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
product | 6-(3,5-dichloro-phenyl)-4,4-dimethyl-1,4-dihydrobenzo-[d][1,3]oxazin-2-one | ClC=1C=C(C=C(C1)Cl)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C16H13Cl2NO2
